US09353086B2
1-(Pyridin-2-yl)-1,4-diazepane
2-Chloropyridine (3.00 g, 26.4 mmol), DIPEA (9.20 mL, 52.8 mmol) and homopiperazine (7.90 g, 79.3 mmol) were dissolved in DMA (10 mL) and heated using a microwave (180-200° C., absorption high) for 40 min. The reaction mixture was diluted with DCM (150 mL), washed with sat aq Na2CO3 (100 mL), brine (100 mL), dried (MgSO4) and concentrated in vacuo to give the title compound (3.41 g, 72%) as a brown liquid. LCMS (ES+): 178.6 [MH]+.

reactant | 2-Chloropyridine | 26.4 mmol, 3.00 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | DIPEA | 52.8 mmol, 9.20 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | homopiperazine | 79.3 mmol, 7.90 g | N1CCNCCC1 | C5H12N2
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
product | 1-(Pyridin-2-yl)-1,4-diazepane | 3.41 g, 72% | N1=C(C=CC=C1)N1CCNCCC1 | C10H15N3
